US07955720B2
Ethyleneglycol (14.88 g, 0.24 mol) and p-toluenesulfonic acid (3 g, 0.16 mol) are added to a solution of 5-bromopyridine-2-carbaldehyde (30 g, 0.16 mol) in toluene (150 ml) at room temperature and the mixture is stirred for 10 hrs at refluxing temperature. After cooling to room temperature, the mixture is quenched with saturated aqueous NH4Cl, extracted with CH2Cl2 and washed with H2O. The aqueous layer is extracted with CH2Cl2 and the combined organic extract is washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (hexane-AcOEt (9:1 V/V)) to afford 5-bromo-2-(1,3-dioxolan-2-yl)pyridine (30.9 g, 84%) as a colorless oil. %). 1H NMR (400 MHz, CDCl3) δ 8.69 (s, 1H), 7.87 (m, 1H), 7.45 (m, 1H), 5.83 (s, 1H), 4.13 (m, 4H).

reactant | Ethyleneglycol | 0.24 mol, 14.88 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.16 mol, 3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 5-bromopyridine-2-carbaldehyde | 0.16 mol, 30 g | BrC=1C=CC(=NC1)C=O | C6H4BrNO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-(1,3-dioxolan-2-yl)pyridine | 30.9 g, 84% | BrC=1C=CC(=NC1)C1OCCO1 | C8H8BrNO2
